data/pmechdb/original/mc_train_fold0/raw/train.txt
[B-:10]([O+:11]1CCOC23C1(C4=C(C2CCC(CC3)C)C=C(C=C4)C)O)(F)(F)F.CC[SiH](CC)CC>>[B:10](F)(F)F.CC1CCC2C3=C(C=CC(=C3)C)C4(C2(CC1)OCC[O:11]4)O.CC[SiH](CC)CC 10,11=11
[H:20][O:21]S(=O)(=O)O.C(=C([N+](=O)[O-])[N+](=O)[O-])(N)[NH:10]C(=O)O.C([N+](=O)[O-])[N+](=O)[O-].C(=O)=O>>[H:20][NH+:10](C(=C([N+](=O)[O-])[N+](=O)[O-])N)C(=O)O.OS(=O)(=O)[O-:21].C([N+](=O)[O-])[N+](=O)[O-].C(=O)=O 10=20;20,21=21
[H:20][CH:21]1C(=C([O+:23]=[C:22]1C2=CC=CC=C2)C3=CC=CC=C3)C#N.[OH2:10].CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=CC=C1>>[H:20][OH2+:10].C1=CC=C(C=C1)[C:22]2=[CH:21]C(=C([O:23]2)C3=CC=CC=C3)C#N.CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=CC=C1 10=20;22,23=23;20,21=21,22
CC(C)(C)C#[N+][O:11][Si-:10](C)(C)(C)OS(=O)(=O)C(F)(F)F.CC[NH+](CC)CC>>CC(C)(C)C#[N+][O-:11].C[Si:10](C)(C)OS(=O)(=O)C(F)(F)F.CC[NH+](CC)CC 10,11=11
CC1C(C2=C(O1)C(=CC=C2O[Si](C(C)C)(C(C)C)C(C)C)Br)(C)C(CC=C)[OH+][Ti:20](Cl)(Cl)Cl.[OH-:10].C[Si](C)(C)Cl>>CC1C(C2=C(O1)C(=CC=C2O[Si](C(C)C)(C(C)C)C(C)C)Br)(C)C(CC=C)[OH+][Ti-:20]([OH:10])(Cl)(Cl)Cl.C[Si](C)(C)Cl 10=20,
[H:20][O:21]C(=O)C.CCOC(=O)C1=C(NC(C1)(C2=CC=CC=C2)[OH:10])C.O>>[H:20][OH+:10]C1(CC(=C(N1)C)C(=O)OCC)C2=CC=CC=C2.CC(=O)[O-:21].O 10=20;20,21=21
[H:20][C:21]1=[C:22](C(=CC=C1)C)[I:23].[NH2-:10]>>[H:20][NH2:10].CC1=CC=C[C:21]#[C:22]1.[I-:23] 10=20;22,23=23;20,21=21,22
[B:20](F)(F)F.C1=CC(=CC=C1CC(=[O:10])C2=C(C=C(C=C2O)O)O)O.CCOCC.C[N+](=CCl)C.O=P(Cl)(Cl)Cl>>[B-:20]([O+:10]=C(CC1=CC=C(C=C1)O)C2=C(C=C(C=C2O)O)O)(F)(F)F.CCOCC.C[N+](=CCl)C.O=P(Cl)(Cl)Cl 10=20,
[Li-:10]([O+:11]=C1C=CC(CC1(C)CC=C(C)[Si](C)(C)C)(C)C)I.CC(C)NC(C)C>>[Li:10]I.CC(=CCC1(CC(C=CC1=[O:11])(C)C)C)[Si](C)(C)C.CC(C)NC(C)C 10,11=11
[H:20][Br:21].C[C:11]1=[CH:10]C(CCCC1C2=CC=CC=C2)C3=CC=CC=C3>>[H:20][CH:10]1C(CCCC([C+:11]1C)C2=CC=CC=C2)C3=CC=CC=C3.[Br-:21] 10,11=10,20;20,21=21
C[Si](C)(C)CC#CCC(CC=[O:10])C1=CC=CC=C1.Cl[Zn:20]Cl.[Cl-]>>C[Si](C)(C)CC#CCC(CC=[O+:10][Zn-:20](Cl)Cl)C1=CC=CC=C1.[Cl-] 10=20,
C1=CC=C(C=C1)[P:10](C2=CC=CC=C2)(C3=CC=CC=C3)(OCCCN4C(=O)C5=C6C(=CC=C5)C=CC=C6C4=O)[Br:11].C1CC(=O)NC1=O>>C1=CC=C(C=C1)[P+:10](C2=CC=CC=C2)(C3=CC=CC=C3)OCCCN4C(=O)C5=C6C(=CC=C5)C=CC=C6C4=O.[Br-:11].C1CC(=O)NC1=O 10,11=11
CCC[CH:10]=[C:11](C1=C(C=CC(=C1)Br)O)[N:12]2CCCC2C3=NN=NN3.C1=CC(=CC=C1[CH:20]=[O:21])[N+](=O)[O-].C(=O)(C(F)(F)F)O.O>>CCC[CH:10]([CH:20](C1=CC=C(C=C1)[N+](=O)[O-])[O-:21])[C:11](=[N+:12]2CCCC2C3=NN=NN3)C4=C(C=CC(=C4)Br)O.C(=O)(C(F)(F)F)O.O 10,11=10,20;20,21=21;12=11
CCO[C:13]1=[CH:12][CH:11]=[CH:10]C=C1.[Br:20][Br:21]>>CCO[C+:13]1C=C[CH:10]([CH:11]=[CH:12]1)[Br:20].[Br-:21] 10,11=10,20;20,21=21;12,13=11,12
CC(=O)CC[C:20](C)([NH:10]CC1=CC=CO1)[OH:21].C1=COC(=C1)CN.O>>C[C:20](=[NH+:10]CC1=CC=CO1)CCC(=O)C.[OH-:21].C1=COC(=C1)CN.O 10=20;20,21=21
[H:20][OH2+:21].CC(CCC=C)[O-:10]>>[H:20][O:10]C(C)CCC=C.[OH2:21] 10=20;20,21=21
[H:20][OH+:21]C1=NC2=CC=CC=C2C(C1)CC.[OH2:10]>>[H:20][OH2+:10].CCC1CC(=NC2=CC=CC=C12)[OH:21] 10=20;20,21=21
[H:20][OH+:21]C(C)(O)OCC.[OH2:10]>>CCOC(C)(O)[OH:21].[H:20][OH2+:10] 10=20;20,21=21
CC(C)(C)[O:21][CH:20]([N:10](C)CCC1=C(C=C(C(=C1)OC)OC)I)O[AlH2]>>CC(C)(C)[O-:21].C[N+:10](=[CH:20]O[AlH2])CCC1=C(C=C(C(=C1)OC)OC)I 10=20;20,21=21
[H:20][O:21]CC.CC(C)(C)[C-:12]1C=C[CH:10]=[CH:11]1>>[H:20][CH:10]1C=C[C:12](=[CH:11]1)C(C)(C)C.CC[O-:21] 10,11=10,20;20,21=21;12=11
[H:20][O+:21](CC)C(C)(O)OC.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CC[O:21]C(C)(O)OC 10=20;20,21=21
CON1C2=C(C=CC=C2)C3(C1=O)CC(C4CC(=O)C3OC4)[C:20](N=[N+]=[N-])([O-:10])[Cl:21]>>CON1C2=C(C=CC=C2)C3(C1=O)CC(C4CC(=O)C3OC4)[C:20](=[O:10])N=[N+]=[N-].[Cl-:21] 10=20;20,21=21
[H:20][O:21]C(=O)C1=CC=CC=C1.[OH-:10]>>[H:20][OH:10].C1=CC=C(C=C1)C(=O)[O-:21] 10=20;20,21=21
[B:20](F)(F)F.CCCC(=[O:10])C>>[B-:20]([O+:10]=C(C)CCC)(F)(F)F 10=20,
[Li][Cu:11](C1=CC=CC=C1)[C:10]2=CC=CC=C2.C[C:22](=[O:23])[CH:21]=[CH2:20]>>[Li][Cu+:11]C1=CC=CC=C1.C[C:22](=[CH:21][CH2:20][C:10]1=CC=CC=C1)[O-:23] 10,11=10,20;22,23=23;20,21=21,22
[H:20][OH:21].C1=CC=C(C=C1)C(CC=O)[O-:10]>>[H:20][O:10]C(CC=O)C1=CC=CC=C1.[OH-:21] 10=20;20,21=21
CO[C:20]1(OCC[O:21]1)[O-:10]>>CO[C:20](=[O:10])OCC[O-:21] 10=20;20,21=21
[H:20][OH2+:21].[P:10](Br)(Br)Br>>[H:20][P+:10](Br)(Br)Br.[OH2:21] 10=20;20,21=21
CO[PH+:22]([O:21][CH3:20])Br.[Br-:10]>>CO[PH:22](=[O:21])Br.[CH3:20][Br:10] 10=20;20,21=21,22
CC=[O:10].CN1CCN([Si:20]1(CC=C)Cl)C>>CC=[O+:10][Si-:20]1(N(CCN1C)C)(CC=C)Cl 10=20,
CCCC=[O:10].CC(C)C[AlH:20]CC(C)C>>CCCC=[O+:10][AlH-:20](CC(C)C)CC(C)C 10=20,
C[CH:20]1C[Br+:21]1.[OH2:10]>>C[CH:20](C[Br:21])[OH2+:10] 10=20;20,21=21
[H:20][C:21]1([CH+:22]C(=CO1)C#N)Br.[Br-:10]>>[H:20][Br:10].[CH:22]1=[C:21](OC=C1C#N)Br 10=20;20,21=21,22
[H:20][OH2+:21].CCOC(CNC(COCC1=CC=CC=C1)C2=C3C(=C(C(=C2)OC)C)OCO3)[O:10]CC.[Cl-]>>[H:20][O+:10](CC)C(CNC(COCC1=CC=CC=C1)C2=C3C(=C(C(=C2)OC)C)OCO3)OCC.[OH2:21].[Cl-] 10=20;20,21=21
CCO[C:20](=[O:21])C.CCO[C:11](=[CH2:10])[O-:12]>>CCO[C:11](=[O:12])[CH2:10][C:20](C)([O-:21])OCC 10,11=10,20;20,21=21;12=11
[B-]([OH+:21][C:20](CC(=O)OCC)(CC(=O)OCC)[O:10]CCO)(F)(F)F.CCOCC.C(CO)O>>[B-]([OH:21])(F)(F)F.CCOC(=O)C[C:20](=[O+:10]CCO)CC(=O)OCC.CCOCC.C(CO)O 10=20;20,21=21
